US06124313
B5. 8-(2-tert-Butoxycarbonylamino-6-methylbenzyloxy)-2,3-dimethylimidazo[1,2-a]pyridine
Starting from 8-hydroxy-2,3-dimethylimidazo[1,2-a]pyridine (1.6 g), 2-tert-butoxycarbonylamino-6-methylbenzyl chloride (3.1 g), sodium iodide (1.8 g) and sodium carbonate (2.7 g) in acetone (350 ml) analogously using the process of Example B1 gives, after chromatography on silica gel (eluent toluene/dioxane 5:1) and recrystallization from cyclohexane, 3.0 g (78%) of the title compound of m.p. 128-131° C.

reactant | 8-hydroxy-2,3-dimethylimidazo[1,2-a]pyridine | 1.6 g | OC=1C=2N(C=CC1)C(=C(N2)C)C | C9H10N2O
reactant | 2-tert-butoxycarbonylamino-6-methylbenzyl chloride | 3.1 g | C(C)(C)(C)OC(=O)NC1=C(CCl)C(=CC=C1)C | C13H18ClNO2
reactant | sodium iodide | 1.8 g | [I-].[Na+]
reactant | sodium carbonate | 2.7 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | 350 ml | CC(=O)C | C3H6O
product | 8-(2-tert-Butoxycarbonylamino-6-methylbenzyloxy)-2,3-dimethylimidazo[1,2-a]pyridine | C(C)(C)(C)OC(=O)NC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C)C(=CC=C1)C | C22H27N3O3
